US07138411B2
Step 1. Preparation of methyl 3-methoxyphenylacetate.
Trimethylsilyl chloride (182 g, 1.68 mol) was added dropwise to a solution of 3-methoxyphenylacetic acid (127 g, 0.77 mol) in methanol (1.0 L) over 1.1 hours. The reaction was stirred at room temperature for 17.25 hours, concentrated in vacuo, dissolved in ethyl acetate, dried over MgSO4, and concentrated in vacuo, to give a brown oil (133 g, 97%): 1H NMR (CDCl3/300 MHz) 7.24 (t, 1H, J=7.5 Hz), 6.83 (m, 3H), 3.80 (s, 3H), 3.69 (s, 3H), 3.60 (s, 2H).

reactant | Trimethylsilyl chloride | 1.68 mol, 182 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 3-methoxyphenylacetic acid | 0.77 mol, 127 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
solvent | methanol | 1.0 L | CO | CH4O
product | methyl 3-methoxyphenylacetate | 133 g, 97% | COC=1C=C(C=CC1)CC(=O)OC | C10H12O3
